US04171303
A suspension of 25 g. (0.048 moles) of 6-(α-[5-indanyloxycarbonyl]-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid triethylammonium salt in 150 ml. of ethyl acetate is cooled to 0° C., and the suspension is acidified with 2 n aqueous hydrochloric acid (18 ml.) to pH=2. The organic phase is separated and the aqueous-acidic phase is extracted with 2×20 ml. of ethyl acetate. The organic solutions are combined, washed with 3×30 ml. of saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and neutralized with a solution of 6.7 g. (0.048 moles) of sodium diethylacetate in 30 ml. of acetone. About 50% of the solvent is evaporated in vacuo. 100 ml. of diisopropyl ether are added to the concentrate, the mixture is cooled, and the obtained white, powdery substance is filtered off. 18 g. (80%) of 6-(α-[5-indanyloxycarbonyl]-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid sodium salt are obtained; m.p.:b 220°-222° C.

reactant | 6-(α-[5-indanyloxycarbonyl]-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid triethylammonium salt | 0.048 moles | C(C)[NH+](CC)CC.C1CCC2=CC(=CC=C12)OC(=O)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)[O-])C1=O)C1=CC=CC=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 18 ml | Cl | ClH
reactant | sodium diethylacetate | 0.048 moles | C(C)C(C(=O)[O-])CC.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 6-(α-[5-indanyloxycarbonyl]-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid sodium salt | 80% | [Na+].C1CCC2=CC(=CC=C12)OC(=O)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)[O-])C1=O)C1=CC=CC=C1 | InChI=1S/C26H26N2O6S.Na/c1-26(2)20(24(31)32)28-22(30)19(23(28)35-26)27-21(29)18(15-7-4-3-5-8-15)25(33)34-17-12-11-14-9-6-10-16(14)13-17;/h3-5,7-8,11-13,18-20,23H,6,9-10H2,1-2H3,(H,27,29)(H,31,32);/q;+1/p-1/t18?,19?,20?,23-;/m1./s1
